US04808715
4-[7-Chloro-4-cinnolinylamino]-N-(2-diethylaminoethyl)benzenesulphonamide
A mixture of anhydrous sodium carbonte (3.08 g) and N,N-diethylethylenediamine (0.43 ml) in chloroform (30 ml) was vigorously stirred at 5° C. and treated with 4-(7-Chloro-4-cinnolinylamino)benzenesulphonyl chloride hydrochloride (1.0 g). The mixture was stirred at room temperature for 11/2 hours and then filtered. The filtrate was evaporated to give a residue that crystallised from ethanol to give the title compound (0.456 g), m.p. 175°-76° C.

reactant | sodium | [Na] | Na
reactant | N,N-diethylethylenediamine | 0.43 ml | C(C)N(CCN)CC | C6H16N2
reactant | 4-(7-Chloro-4-cinnolinylamino)benzenesulphonyl chloride hydrochloride | 1.0 g | Cl.ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[7-Chloro-4-cinnolinylamino]-N-(2-diethylaminoethyl)benzenesulphonamide | 0.456 g | ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCCN(CC)CC | C20H24ClN5O2S
